*****************************************************************
* NXP PSMN8R7_80PS
*
* Polarity N-Channel
* Ratings 80V/8.70E-03OHMS/10A
*
* Date Created Sun Oct 17 03:23:32 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************
 
.SUBCKT PSMN8R7_80PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.13771774667544e-09
RLS2 SOURCE 8 5.37266615662248
RLS1 8 7 0.000787717746675436

RDS 7 4 16000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00645448579991383 TC=0.00792223442485659,1.4175350967728e-05
RBD 9 4 0.000913158610815401 TC=0.00792223442485659,1.4175350967728e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000
CGS 2 6 3.11865726681128e-09
RG 1 2 0.997840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2865
+ -8	2858
+ -6	2845
+ -4	2711
+ -2	2007
+ 0	649.5
+ 0.1	593
+ 0.2	550
+ 0.5	467
+ 1	364
+ 2	250
+ 5	223
+ 10	201
+ 20	180
+ 25	173
+ 30	167
+ 40	159



.MODEL MINT NMOS(Vto=3.75267454797615 Kp=2.6325e+02 Nfs=10 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Vmax=400)

.MODEL DBD D(Bv=80.00 Ibv=2.50E-04 Rs=1E-6 Is=1.9275632107793e-12
+ N=1 M=0.67 VJ=0.69 Fc=0.5 Cjo=1.854e-09 Tt=4.227e-08)

.ENDS
